US04426464
Preparation of 8-Quinolinyl Acrylate
8-Hydroxyquinoline (58.0 g: 0.40 mole) was dissolved in a mixture of toluene (500 ml) and triethylamine (41.4 g; 0.41 mole). Acrylyl chloride (38.0 g; 0.42 mole) was added slowly, while stirring, the reaction temperature beting kept under 30° C. When the addition was complete the mixture was stirred for another 1 hour. The solution was then filtered and washed with a solution of sodium hydrogen carbonate in water followed by water only, and finally the toluene layer was dried with anhydrous sodium sulphate. Some toluene was evaporated off using a rotary evaporator under low pressure. The solution was left in a refrigerator overnight and the solid formed was filtered off. This was identified by infra-red and N.M.R. spectroscopy and microanalysis to be 8-quinolinyl acrylate. Yield 48.6 g (61 percent of the theoretical yield).

reactant | 8-Hydroxyquinoline | 0.40 mole, 58.0 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | triethylamine | 0.41 mole, 41.4 g | C(C)N(CC)CC | C6H15N
reactant | Acrylyl chloride | 0.42 mole, 38.0 g | C(C=C)(=O)Cl | C3H3ClO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 8-Quinolinyl Acrylate | C(C=C)(=O)OC=1C=CC=C2C=CC=NC12 | C12H9NO2
